US07465731B2
To a stirred solution of 5-bromo-2-chloropyrimidine (500 mg) in DMF (5 mL) was added ethyl acrylate (1.41 mL), palladium(II) acetate (29 mg), tris(2-methylphenyl)phosphine (118 mg), and N,N-diisopropylethylamine (1.35 mL). The mixture was stirred at 100° C. for 4 hours. The resulting mixture was allowed to cool to ambient temperature, poured into brine, and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (90:10 v/v) to give ethyl (2E)-3-(2-chloro-5-pyrimidinyl)acrylate (494 mg) as a yellow powder.

reactant | 5-bromo-2-chloropyrimidine | 500 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | ethyl acrylate | 1.41 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tris(2-methylphenyl)phosphine | 118 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | N,N-diisopropylethylamine | 1.35 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | palladium(II) acetate | 29 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl (2E)-3-(2-chloro-5-pyrimidinyl)acrylate | 494 mg | ClC1=NC=C(C=N1)/C=C/C(=O)OCC | C9H9ClN2O2
